US06924374B2
1-(3-Chloro-5-trifluoromethyl-phenyl)-piperazine
Beginning with 3,5-dichlorobenzotrifluoride (500 mg, 2.32 mmol) and piperazine (1 g, 11.6 mmol), 320 mg of the title compound was recovered by the procedure described in Example 1.

reactant | 3,5-dichlorobenzotrifluoride | 2.32 mmol, 500 mg | ClC=1C=C(C=C(C1)Cl)C(F)(F)F | C7H3Cl2F3
reactant | piperazine | 11.6 mmol, 1 g | N1CCNCC1 | C4H10N2
product | 1-(3-Chloro-5-trifluoromethyl-phenyl)-piperazine | 320 mg | ClC=1C=C(C=C(C1)C(F)(F)F)N1CCNCC1 | C11H12ClF3N2
